US07935722B2
(R)-Cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-(1-methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Prepare the title compound from (R)-cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide (Preparation 71) (3.10 g, 7.94 mmol), methoxylamine hydrochloride (1.99 g, 23.8 mmol), and sodium hydroxide (0.48 g, 11.9 mmol) by essentially following procedures as described in Example 204. Purify using silica gel chromatography eluting with 10% EtOAc/CH2Cl2 to provide 1.94 g (58%) of product. mp: 200-203° C.; MS (ES) m/z 420 (M+1).

reactant | (R)-cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 7.94 mmol, 3.10 g | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(=O)C2CC2)C=O)C=CC1 | C24H23FN2O2
reactant | methoxylamine hydrochloride | 23.8 mmol, 1.99 g | Cl.O(C)N
reactant | sodium hydroxide | 11.9 mmol, 0.48 g | [OH-].[Na+]
product | (R)-Cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-(1-methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(=O)C2CC2)C=NOC)C=CC1 | C25H26FN3O2
